US05591735
Preparation of 2β,16β-bis(4-acetyloxy-1-piperidinyl)-5α-androstane-3α,17β-diol-diacetate
After adding 21 ml of triethylamine and then 17 ml of acetyl chloride to 15.0 g of 2β,16β-bis(4-hydroxy-1-piperidinyl)-5α-androstane-3α,17β-diol dissolved in 85 ml of methylene chloride, the solution is left to stand for 12 hours, then the excess of acetyl chloride is decomposed by water. The methylene chloride solution is washed first with an aqueous sodium hydroxide solution cooled to 2°-5° C. and then with water until it becomes neutral. After drying, methylene chloride is evaporated to obtain the title compound as a foam-like residue in a yield of 74.9%, Rf3 =0.67.

reactant | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 17 ml | C(C)(=O)Cl | C2H3ClO
reactant | 2β,16β-bis(4-hydroxy-1-piperidinyl)-5α-androstane-3α,17β-diol | 15.0 g | OC1CCN(CC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCC(CC1)O)O | C29H50N2O4
reactant | water | O | H2O
solvent | methylene chloride | 85 ml | C(Cl)Cl | CH2Cl2
product | 2β,16β-bis(4-acetyloxy-1-piperidinyl)-5α-androstane-3α,17β-diol diacetate | yield of 74.9% | C(C)(=O)OC1CCN(CC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCC(CC1)OC(C)=O)O.CC(=O)CC(=O)O | InChI=1S/C33H54N2O6.C4H6O3/c1-20(36)40-23-8-13-34(14-9-23)28-18-27-25-6-5-22-17-30(38)29(35-15-10-24(11-16-35)41-21(2)37)19-33(22,4)26(25)7-12-32(27,3)31(28)39;1-3(5)2-4(6)7/h22-31,38-39H,5-19H2,1-4H3;2H2,1H3,(H,6,7)/t22-,25+,26-,27-,28-,29-,30-,31-,32-,33-;/m0./s1
